US06903101B1
Preparation of 4-[4-(4-Chlorophenylamino)phthalazin-1-yloxymethyl]pyridin-2-yl carboxylic acid amide
The general procedure used for the preparation of Example 4 was used to prepare 5 from 1-(4-chlorophenylamino)-4-(4-pyridylmethoxy)phthalazine and formamide; (10% yield). TLC (dichloromethane/acetone/triethylamine 7.5:1.0:0.5): Rf=0.42.

reactant | 1-(4-chlorophenylamino)-4-(4-pyridylmethoxy)phthalazine | ClC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)OCC1=CC=NC=C1 | C20H15ClN4O
reactant | formamide | C(=O)N | CH3NO
solvent | dichloromethane acetone triethylamine | ClCCl.CC(=O)C.C(C)N(CC)CC
product | 4-[4-(4-Chlorophenylamino)phthalazin-1-yloxymethyl]pyridin-2-yl carboxylic acid amide | 10% yield | ClC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)OCC1=CC(=NC=C1)C(=O)N | C21H16ClN5O2
